US08703758B2
K) 2-[trans-4-(2-azidopropoxy)cyclohexyl]-6-(cyclopropylmethoxy)-1-benzofuran
A suspension of 2-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate 624 mg) and sodium azide (480 mg) in DMF (5 mL) was stirred at 60° C. overnight. The reaction mixture was allowed to cool to room temperature, and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (397 mg).

reactant | 2-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate | 624 mg | CS(=O)(=O)OC(CO[C@@H]1CC[C@H](CC1)C=1OC2=C(C1)C=CC(=C2)OCC2CC2)C | C22H30O6S
reactant | sodium azide | 480 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[trans-4-(2-azidopropoxy)cyclohexyl]-6-(cyclopropylmethoxy)-1-benzofuran | 397 mg | N(=[N+]=[N-])C(CO[C@@H]1CC[C@H](CC1)C=1OC2=C(C1)C=CC(=C2)OCC2CC2)C | C21H27N3O3
